US09079866B2
5-[3-Fluoro-2′-(pyrazin-2-ylsulfanyl)biphenyl-4-yl]pyrimidin-2-amine hydrochloride
The title compound was prepared using analogous conditions to those described in Example 213 utilizing 4′-(2-aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-thiol and 2-chloropyrazine. MS (ESI): mass calcd. for C20H14FN5S, 375.10; m/z found, 375.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.70-8.57 (m, 2H), 8.41 (dd, J=2.5, 1.6, 1H), 8.35 (d, J=2.6, 1H), 8.27 (d, J=1.5, 1H), 7.72 (dd, J=8.0, 1.2, 1H), 7.64-7.57 (m, 2H), 7.56-7.50 (m, 2H), 7.34 (d, J=11.8, 1H), 7.27 (d, J=8.0, 1H), 6.01 (s, 2H).

reactant | 4′-(2-aminopyrimidin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-thiol | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S)F | C16H12FN3S
reactant | 2-chloropyrazine | ClC1=NC=CN=C1 | C4H3ClN2
product | 5-[3-Fluoro-2′-(pyrazin-2-ylsulfanyl)biphenyl-4-yl]pyrimidin-2-amine hydrochloride | Cl.FC=1C=C(C=CC1C=1C=NC(=NC1)N)C1=C(C=CC=C1)SC1=NC=CN=C1 | InChI=1S/C20H14FN5S.ClH/c21-17-9-13(5-6-15(17)14-10-25-20(22)26-11-14)16-3-1-2-4-18(16)27-19-12-23-7-8-24-19;/h1-12H,(H2,22,25,26);1H
